US04791114
10.1 g (0.05 mole) of 85% pure m-chloroperoxybenzoic acid are added slowly to a solution, cooled to -15° C., of 17.3 g (0.05 mole) of 5-benzoyl-2-(2-pyridylthiomethyl)benzimidazole in 250 ml of dichloromethane. The mixture is stirred at a temperature below -10° C. for 30 minutes and 100 ml of sodium carbonate solution are added. The organic phase is decanted, washed with sodium carbonate and water and then dried (Na2SO4). When this has been filtered, the solvent is evaporated off and the residue recrystallized in acetone. 12.0 g (66.5%) of 5-benzoyl-2-(2-pyridylsulfinylmethyl)benzimidazole, melting point 142°-145° C., are obtained.

reactant | m-chloroperoxybenzoic acid | 0.05 mole, 10.1 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5-benzoyl-2-(2-pyridylthiomethyl)benzimidazole | 0.05 mole, 17.3 g | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=C(N2)CSC2=NC=CC=C2)C=C1 | C20H15N3OS
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 5-benzoyl-2-(2-pyridylsulfinylmethyl)benzimidazole | 12.0 g, 66.5% | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=C(N2)CS(=O)C2=NC=CC=C2)C=C1 | C20H15N3O2S
